US03985782
Methyl iodide (99.4 g.) is added to a solution of ammonium 2-aminophenyl-dithiocarbamate (141 g.) in water (1050 cc.), whilst keeping the temperature at about 20° C. The mixture is stirred for a further hour after the end of the exothermic reaction. The precipitate obtained is filtered off and is then recrystallized moist from ethanol. Methyl 2-aminophenyl-dithiocarbamate (125 g.), m.p. 114° C., is thus obtained.

reactant | Methyl iodide | 99.4 g | CI | CH3I
reactant | ammonium 2-aminophenyl-dithiocarbamate | 141 g | NC1=C(C=CC=C1)NC([S-])=S.[NH4+]
solvent | water | 1050 cc | O | H2O
product | Methyl 2-aminophenyl-dithiocarbamate | 125 g | NC1=C(C=CC=C1)NC(SC)=S | C8H10N2S2
